US07399775B2
The 2-[5-(t-butyldiphenylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]-2-methylpentyl]-1,4-difluorobenzene (isomer mixture) (1.40 g, 2.23 mmol) obtained in Example 38 was dissolved in tetrahydrofuran (30 ml), followed by the addition of a tetrahydrofuran solution (1.0M, 5.0 ml, 5.0 mmol) of tetrabutylammonium fluoride under ice cooling. The resulting mixture was stirred at room temperature for 14 hours. After addition of water (3 ml), the residue obtained by concentrating the resulting mixture under reduced pressure was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=2:1 eluate was concentrated under reduced pressure, whereby 5-[(4-chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-4-methyl-1-pentanol (isomer mixture) (879 mg, quant.) was obtained as a colorless oil.

reactant | 2-[5-(t-butyldiphenylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]-2-methylpentyl]-1,4-difluorobenzene | 2.23 mmol, 1.40 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC(C(S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=CC(=C1)F)F)C | C34H37ClF2O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mmol, 1.0M, 5.0 ml | O1CCCC1 | C4H8O
product | 5-[(4-chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-4-methyl-1-pentanol | 879 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C(CCCO)C)C1=C(C=CC(=C1)F)F | C18H19ClF2O3S
